US06365602B1
N-[2-(S)-(3,4-Dichlorophenyl)-4-[4[(R)-2-methylsulfinylphenyl]-1-piperidinyl]butyl]-N-methyl-3-cyano-1-naphthamide Citrate Hydrate
Using standard reductive amination conditions (except that acetic acid-sodium acetate buffer was substituted for acetic acid) N-[(S)-2-(3,4-dichlorophenyl)-4-oxobutyl]-N-methyl-3-cyano-1-naphthamide (468 mg, 1.1 mmol) was reacted with 4-[(R)-2-methylsulfinylphenyl]-piperidine (piperidine (Shenvi, A B; Jacobs, R T; Miller, S C; Ohnmacht. C J Jr; Veale, C A.; WO 9516682) (232 mg, 1.04 mmol), converted to the citrate salt, and isolated by filtration from Et2O to afford the title compound (651.2 mg) as a white powder. MS m/z 632 (M+H); analysis for C35H35Cl2N3O2S .C6H8O7.H2O: calculated: C, 58.43; H, 5.38; N, 4.98; found: C, 58.10; H, 5.20; N. 4.82.

reactant | acetic acid sodium acetate | C(C)(=O)O.C(C)(=O)[O-].[Na+]
reactant | N-[(S)-2-(3,4-dichlorophenyl)-4-oxobutyl]-N-methyl-3-cyano-1-naphthamide | 1.1 mmol, 468 mg | ClC=1C=C(C=CC1Cl)[C@@H](CN(C(=O)C1=CC(=CC2=CC=CC=C12)C#N)C)CC=O | C23H18Cl2N2O2
reactant | 4-[(R)-2-methylsulfinylphenyl]-piperidine | C[S@@](=O)C1=C(C=CC=C1)C1CCNCC1 | C12H17NOS
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | Et2O | CCOCC | C4H10O
product | N-[2-(S)-(3,4-Dichlorophenyl)-4-[4[(R)-2-methylsulfinylphenyl]-1-piperidinyl]butyl]-N-methyl-3-cyano-1-naphthamide Citrate Hydrate | 651.2 mg | O.C(CC(O)(C(=O)O)CC(=O)O)(=O)O.ClC=1C=C(C=CC1Cl)[C@@H](CN(C(=O)C1=CC(=CC2=CC=CC=C12)C#N)C)CCN1CCC(CC1)C1=C(C=CC=C1)[S@](=O)C | InChI=1S/C35H35Cl2N3O2S.C6H8O7.H2O/c1-39(35(41)31-20-24(22-38)19-27-7-3-4-8-29(27)31)23-28(26-11-12-32(36)33(37)21-26)15-18-40-16-13-25(14-17-40)30-9-5-6-10-34(30)43(2)42;7-3(8)1-6(13,5(11)12)2-4(9)10;/h3-12,19-21,25,28H,13-18,23H2,1-2H3;13H,1-2H2,(H,7,8)(H,9,10)(H,11,12);1H2/t28-,43-;;/m1../s1
